US07531532B2
1,1-Dimetyl-3-{4-[4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}urea
2-Phenylacetamide (149 mg) was dissolved in 1,2-dichloroethane (10 ml) under a nitrogen atmosphere, and then oxalyl chloride (0.175 ml) was added thereto, followed by stirring at 110° C. overnight. The reaction mixture was concentrated under a reduced pressure to give a residue, which was then dissolved in N,N-dimethylformamide (3.4 ml) under a nitrogen atmosphere. 3-[4-(4-Aminophenoxy)pyridin-2-yl]-1,1-dimethylurea (100 mg) was then added thereto, followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:3). Fractions containing a crude product were concentrated under a reduced pressure to give a residue, which was then partitioned between ethyl acetate and 1N hydrochloric acid. To the aqueous layer was added a 1 N aqueous solution of sodium hydroxide to make it alkaline, which was then extracted with ethyl acetate. The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a crude product, which was then partitioned between ethyl acetate and 1N hydrochloric acid again. To the aqueous layer was added a 1 N aqueous solution of sodium hydroxide to make it alkaline, which was then extracted with ethyl acetate. The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a crude product, which was then partitioned between ethyl acetate and 1N hydrochloric acid again. To the aqueous layer was added a 1 N aqueous solution of sodium hydroxide to make it alkaline, which was then extracted with ethyl acetate. The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a crude product, which was then partitioned between ethyl acetate and 1N hydrochloric acid. To the aqueous layer was added a 1 N aqueous solution of sodium hydroxide to make it alkaline, which was then extracted with ethyl acetate. The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, to which were added a small amount of ethyl acetate and a small amount of hexane to precipitate crystals. The crystals were filtered off and dried under aeration to provide the titled compound (8.1 mg, 5.1%) as pale yellow crystals.

reactant | 2-Phenylacetamide | 149 mg | C1(=CC=CC=C1)CC(=O)N | C8H9NO
reactant | oxalyl chloride | 0.175 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[4-(4-Aminophenoxy)pyridin-2-yl]-1,1-dimethylurea | 100 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(N(C)C)=O)C=C1 | C14H16N4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | N,N-dimethylformamide | 3.4 ml | CN(C=O)C | C3H7NO
product | 1,1-Dimetyl-3-{4-[4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}urea | 8.1 mg, 5.1% | CN(C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC(CC1=CC=CC=C1)=O)C | C23H23N5O4
